US06060475
2M Sodium hydroxide solution (1 ml) was added to a solution of N-(isobutoxycarbonyl)-2-(4-[1-(methoxycarbonyl)ethoxy]phenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.302 g) in methanol (5 ml) and dimethoxyethane (5 ml) and the solution was stirred for 3 days. Volatile material was removed by evaporation and the residue was dissolved in water (15 ml). The solution was washed with ethyl acetate (2×15 ml) and acidified to pH3 with 6M hydrochloric acid. The mixture was extracted with ethyl acetate (2×10 ml) and the extracts were re-extracted with saturated sodium bicarbonate solution (2×10 ml). The aqueous solution was acidified with 2M hydrochloric acid and extracted with ethyl acetate (2×10 ml). The extracts were washed with water (10 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was recrystallised from ethyl acetate to give 2-[4-(1-carboxyethoxy)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.098 g), m.p. 149-151° C.; microanalysis found: C, 53.6; H, 4.9; N, 11.7%; C18H18N4O6S.0.2C4H8O2 requires: C, 54.1; H, 4.7; N, 12.1%.

reactant | Sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
reactant | N-(isobutoxycarbonyl)-2-(4-[1-(methoxycarbonyl)ethoxy]phenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.302 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)OC(C)C(=O)OC)C1=NC=C(N=C1OC)C | C26H30N4O8S
solvent | methanol | 5 ml | CO | CH4O
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
product | 2-[4-(1-carboxyethoxy)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.098 g | C(=O)(O)C(C)OC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C20H20N4O6S
